US08193237B2
2-Aminocarbonylamino-6-(1-hydroxyethyl)indole-3-carboxamide (Compound 15-1)
Sodium borohydride (10 mg, 0.26 mmol) was added to a solution of 6-acetyl-2-aminocarbonylaminoindole-3-carboxamide (Compound 14-1,14 mg, 0.054 mmol) in anhydrous tetrahydrofuran (2 mL) under ice-cooling, and the mixture was stirred at room temperature for 1 hour. Water (5 mL) was added to the reaction mixture, and the whole was extracted with ethyl acetate (20 mL). The organic layer was washed with brine (5 mL), and dried over anhydrous magnesium sulfate. After the solvent was evaporated under reduced pressure, the resultant solid was washed with diethyl ether (2 mL) and dried under reduced pressure to give the title compound (3 mg) as a colorless solid (yield 22%).

reactant | Sodium borohydride | 0.26 mmol, 10 mg | [BH4-].[Na+]
reactant | 6-acetyl-2-aminocarbonylaminoindole-3-carboxamide | 0.054 mmol, 14-1,14 mg | C(C)(=O)C1=CC=C2C(=C(NC2=C1)NC(=O)N)C(=O)N | C12H12N4O3
reactant | Water | 5 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 2-Aminocarbonylamino-6-(1-hydroxyethyl)indole-3-carboxamide | 3 mg, yield 22% | NC(=O)NC=1NC2=CC(=CC=C2C1C(=O)N)C(C)O | C12H14N4O3
